US08168793B2
To a stirred solution of 3-(3-ethoxy-3-oxopropanoyl)-2-(trifluoromethyl)pyridine-1-oxide (1.39 g, 5 mmol) in pyridine (25 mL) was added 2-bromo-1-(3,4-dimethoxy-5-nitrophenyl)ethanone (1.67 g, 5.5 mmol). The reaction mixture was heated to 70° C. and stirred for 5 hours, then cooled to room temperature and poured onto 6 N aqueous HCl (100 mL). The precipitate was filtered off, washed with water and dried over P2O5 under vacuum. The solid was recrystallised from dichloromethane/ispropanol to give crude 3-(4-(3,4-dimethoxy-5-nitrophenyl)-3-(ethoxycarbonyl)furan-2-yl)-2-(trifluoromethyl)pyridine 1-oxide, 1.05 g (43%).

reactant | 3-(3-ethoxy-3-oxopropanoyl)-2-(trifluoromethyl)pyridine-1-oxide | 5 mmol, 1.39 g | C(C)OC(CC(=O)C=1C(=[N+](C=CC1)[O-])C(F)(F)F)=O | C11H10F3NO4
reactant | 2-bromo-1-(3,4-dimethoxy-5-nitrophenyl)ethanone | 5.5 mmol, 1.67 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC)OC | C10H10BrNO5
reactant | HCl | 6 N, 100 mL | Cl | ClH
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-(3,4-dimethoxy-5-nitrophenyl)-3-(ethoxycarbonyl)furan-2-yl)-2-(trifluoromethyl)pyridine 1-oxide | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1C(=C(OC1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F)C(=O)OCC | C21H17F3N2O8
